US07678803B2
4-Chloro-7-fluoro-quinazoline (0.73 g, 4 mmol) and cyclopropylamine (0.23 g, 4 mmol) are stirred in dichloromethane at ambient temperature overnight. The solid product is precipitated with hexanes, filtered, and washed with hexane and ethyl acetate, affording 0.3 g of desired Cyclopropyl-(7-fluoro-quinazolin-4-yl)-amine. The filtrate is concentrated and precipitated with hexanes, yielding an additional 0.35, for a combined yield of 80%. LC/MS m/z=204 [M+H]+).

reactant | 4-Chloro-7-fluoro-quinazoline | 4 mmol, 0.73 g | ClC1=NC=NC2=CC(=CC=C12)F | C8H4ClFN2
reactant | cyclopropylamine | 4 mmol, 0.23 g | C1(CC1)N | C3H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Cyclopropyl-(7-fluoro-quinazolin-4-yl)-amine | 0.3 g, yield of 80% | C1(CC1)NC1=NC=NC2=CC(=CC=C12)F | C11H10FN3
